US07329662B2
5-(4-Chloro-3-methyl-phenyl)-3-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-chloro-3-methyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (265 mg, 1.0 mmol), prepared from commercially available 4-chloro-3-methyl-acetophenone according to general procedure A, and 3-amino-4-(2-pyridinyl)-pyrazole [CAS No. 493038-87-2; prepared from 2-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (160 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (270 mg, 69%). MS (ISP) 389.2 [(M+H)+]; mp 183° C.

reactant | 1-(4-chloro-3-methyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 265 mg | ClC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C | C11H8ClF3O2
reactant | 3-amino-4-(2-pyridinyl)-pyrazole | 1.0 mmol, 160 mg | NC1=NNC=C1C1=NC=CC=C1 | C8H8N4
product | 5-(4-Chloro-3-methyl-phenyl)-3-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 270 mg, 69% | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=NC=CC=C2)C | C19H12ClF3N4
